US04686228
A solution of isobutylchloroformate (0.11 g) in chloroform (5 ml) was added dropwise to a stirred solution of 4-amino-6,7-dimethoxy-2-[piperazin-1-yl]quinoline (0.21 g) in chloroform (15 ml) with triethylamine (0.22 g) at 10°. The solution was then stirred at room temperature for 1 hour and sodium carbonate solution (10%, 10 ml) added. The organic phase was separated, the aqueous solution extracted with chloroform (2×15 ml) and the total combined extracts dried (Na2SO4) and evaporated in vacuo. The residue was purified by chromatography on silica gel (Merck 9385, 25 g) eluting with methylene chloride-methanol (100:0→93:7), followed by treatment of the product with ethereal hydrogenchloride and recrystallisation from isopropanol to give 4-amino-6,7-dimethoxy-2-[4-(isobutoxycarbonyl)-piperazin-1-yl]quinoline hydrochloride sesquihydrate, m.p. 254°-256° (0.065 g).

reactant | isobutylchloroformate | 0.11 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 4-amino-6,7-dimethoxy-2-[piperazin-1-yl]quinoline | 0.21 g | NC1=CC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C15H20N4O2
reactant | triethylamine | 0.22 g | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | 10 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-amino-6,7-dimethoxy-2-[4-(isobutoxycarbonyl)-piperazin-1-yl]quinoline hydrochloride sesquihydrate | O.Cl.NC1=CC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)OCC(C)C.O.O.NC1=CC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)OCC(C)C.Cl | InChI=1S/2C20H28N4O4.2ClH.3H2O/c2*1-13(2)12-28-20(25)24-7-5-23(6-8-24)19-10-15(21)14-9-17(26-3)18(27-4)11-16(14)22-19;;;;;/h2*9-11,13H,5-8,12H2,1-4H3,(H2,21,22);2*1H;3*1H2
